US07176201B2
3′-Hydroxybiphenyl-3-carboxylic acid amide.
To a stirred, cooled (0° C.) solution of 3′-methoxybiphenyl-3-carboxylic acid amide (0.57 g; 2.5 mmol) in dry CH2Cl2 (28 mL), under N2 atmosphere, a 1M solution of BBr3 in CH2Cl2 (6.4 mL) was added. The mixture was stirred at room temperature for 1 h, quenched with 2N Na2CO3 and extracted with AcOEt. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated. Purification of residue by column chromatography (cyclohexane/EtOAc 2:8) gave the desired product as an amorphous solid. Yield 91%. Mp: 148–51° C. (after digestion with i-Pr2O). MS (EI): m/z 213 (M+, 100%). 1H NMR (CDCl3/d6-DMSO): δ 6.06 (br s, 1H); 6.59 (m, 1H); 6.85 (m, 2H); 7.01 (t, 1H); 7.23 (t, 1H); 7.35 (br s, 1H); 7.45 (m, 1H); 7.60 (m, 1H) 7.88 (s, 1H); 8.80 (s, 1H) ppm. IR (Nujol): 3314, 3141, 1669, 1630, 1607, 1577 cm−1.

reactant | 3′-methoxybiphenyl-3-carboxylic acid amide | 2.5 mmol, 0.57 g | COC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)N | C14H13NO2
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 28 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 6.4 mL | C(Cl)Cl | CH2Cl2
product | 3′-Hydroxybiphenyl-3-carboxylic acid amide | Yield 91% | OC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)N | C13H11NO2
